US04088785
To 51 g. (0.315 mole) of 2,6-dichloroaniline is added 0.4 moles of etherial HCl and 200 ml of m-cresol. The mixture is then stirred and heated on a steam bath to drive off the ether and excess hydrogen chloride. To the resultant mixture is then added 13.3 g. (0.315 mole) of cyanamide then heated for 2 hours on a steam bath. The reaction mixture is then cooled, added to 150 ml of conc. sodium hydroxide solution, cooled and extracted with 2 liters of ether. The ether layer is washed with 2 × 1 liter of water, dried over sodium sulfate, charcoaled and evaporated. The residue is triturated with hexane and the precipitate is filtered off and washed with ether and dried to obtain 2,6-dichlorophenylguanidine.

reactant | 2,6-dichloroaniline | 0.315 mole | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | m-cresol | 200 ml | C1=C(C=CC=C1O)C | C7H8O
reactant | hydrogen chloride | Cl | ClH
reactant | cyanamide | 0.315 mole | N#CN | CH2N2
reactant | sodium hydroxide | 150 ml | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 2,6-dichlorophenylguanidine | ClC1=C(C(=CC=C1)Cl)NC(=N)N | C7H7Cl2N3
